US08614215B2
Intermediate 73: N-(2-Hydroxyethyl)-3-methoxy-5-nitrobenzamide
Oxalyl chloride (6.4 g; 50.7 mmol; 5 eq) is added to a suspension of 3-nitro-5-methoxy benzoic acid (2 g; 10 mmol; 1 eq) and DMF (cat.) in DCM (50 mL) and the resulting mixture is stirred at room temperature for 1 h then evaporated to dryness. The residue is taken up in THF (20 mL) and added to a solution of ethanolamine (3.1 g; 50.7 mmol; 5 eq) and DIEA (6.6 g; 50.7 mmol; 5 eq) in THF (40 mL). The resulting mixture is stirred at room temperature for 2 h. The solution is evaporated to dryness and the residue partitioned between EtOAc and 0.5 M HCl. The aqueous phase is extracted with EtOAc (3×) and the combined organic layer is washed successively with 0.5 M HCl (2×) then brine (2×). After drying over MgSO4, the solution is concentrated in vacuo to afford a yellow solid. Trituration in a mixture of EtOAc and Et2O followed by filtration afforded 1.35 g (55%) of the title compound as an off-white solid. 1H NMR (DMSO-d6) δ 8.84 (t, J=5.6 Hz, 1H), 8.29 (t, J=1.7 Hz, 1H), 7.86 (d, J=1.7 Hz, 2H), 4.77 (t, J=5.6 Hz, 1H), 3.93 (s, 3H), 3.54 (q, J=5.8 Hz, 2H), 3.35 (q, J=5.6 Hz, 2H), HPLC (max plot) 99%; Rt 1.73 mm.

reactant | Oxalyl chloride | 50.7 mmol, 6.4 g, 5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-5-methoxy benzoic acid | 10 mmol, 2 g, 1 eq | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)OC | C8H7NO5
reactant | ethanolamine | 50.7 mmol, 3.1 g, 5 eq | C(O)CN | C2H7NO
reactant | DIEA | 50.7 mmol, 6.6 g, 5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et2O | CCOCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-Hydroxyethyl)-3-methoxy-5-nitrobenzamide | 1.35 g, 55% | OCCNC(C1=CC(=CC(=C1)[N+](=O)[O-])OC)=O | C10H12N2O5
